US05177102
b) 2-(3,7,11,15,19,23,27,31,35-Nonamethyl-2,6,10,14,18,22,26,30,34-hexatriacontanonaen-1-ylthio)ethylamine
Under an atmosphere of argon, sodium hydride (1.43 g, 35.8 mmol, 60% dispersion in mineral oil) was added to a solution of 2-aminoethanethiol (2.76 g, 35.8 mmol) in 90 ml of tetrahydrofuran. The mixture was heated at reflux temperature for 15 minutes and cooled in an ice bath. To the reaction mixture, 18-crown-6 (20 mg, 0.08 mmol) was added and then a solution of 1-chloro-3,7,11,15,19,23,27,31,35-nonamethyl-2,6,10,14,18,22,26,30,34-hexatriacontanonaene [23.2 g, 35.7 mmol, prepared as described in Item a) given above] in 90 ml of tetrahydrofuran was added in dropwise for 10 minutes. The reaction mixture was heated at reflux temperature for 4 hours and then cooled. After addition of water (1 ml), the solvent was evaporated in vacuo to dryness. The remaining residue was partitioned between water and n-hexane. The aqueous layer was extracted with n-hexane to combine the n-hexane layers. The combined organic layer was dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to dryness. The remaining residue was chromatographed on silica gel, eluting with CH2Cl2 /MeOH (50:1-20:1) to afford 15.1 g (61.3%) of the desired compound, as a pale brown oil.

reactant | sodium hydride | 35.8 mmol, 1.43 g | [H-].[Na+]
reactant | 2-aminoethanethiol | 35.8 mmol, 2.76 g | NCCS | C2H7NS
reactant | 1-chloro-3,7,11,15,19,23,27,31,35-nonamethyl-2,6,10,14,18,22,26,30,34-hexatriacontanonaene | ClCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)C)C)C)C | C45H73Cl
reactant | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
catalyst | 18-crown-6 | 0.08 mmol, 20 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 2-(3,7,11,15,19,23,27,31,35-Nonamethyl-2,6,10,14,18,22,26,30,34-hexatriacontanonaen-1-ylthio)ethylamine | 15.1 g, 61.3% | CC(=CCSCCN)CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)C)C)C | C47H79NS
